US05767300
Preparation of (4-trichlorosilyl-n-butyl)(methyl)silanediyl[bis(2-methylindenyl)]zirconium dichloride
0.4 g (3 mmol) of trichlorosilane and 10 mg of H2PtCl6.6H2 O were added to a solution of 0.52 g (1 mmol) of (3-butenyl)(methyl)silanediyl[bis(2-methylindenyl)]zirconium dichloride in 5 ml of toluene. After stirring for 24 hours at room temperature, the excess trichlorosilane and the toluene were removed in an oil pump vacuum. This gives 0.69 g of an oil which no longer shows any resonance signals of the vinyl protons in the 1H-NMR spectrum.

reactant | trichlorosilane | 3 mmol, 0.4 g | Cl[SiH](Cl)Cl | Cl3HSi
reactant | (3-butenyl)(methyl)silanediyl[bis(2-methylindenyl)]zirconium dichloride | 1 mmol, 0.52 g | [Cl-].[Cl-].C(CC=C)[Zr](C1C(=CC2=CC=CC=C12)C)(C1C(=CC2=CC=CC=C12)C)(=[SiH2])C
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (4-trichlorosilyl-n-butyl)(methyl)silanediyl[bis(2-methylindenyl)]zirconium dichloride | [Cl-].[Cl-].Cl[Si](CCCC[Zr](C1C(=CC2=CC=CC=C12)C)(C1C(=CC2=CC=CC=C12)C)(=[SiH2])C)(Cl)Cl | InChI=1S/2C10H9.C4H8Cl3Si.CH3.2ClH.H2Si.Zr/c2*1-8-6-9-4-2-3-5-10(9)7-8;1-2-3-4-8(5,6)7;;;;;/h2*2-7H,1H3;1-4H2;1H3;2*1H;1H2;/p-2
